US05631372
A solution of 1-sulfo-4-aza-1-azoniabicyclo[2.2.2]octane tetrafluoroborate (28 g, 10 mmole) and boron trifluoride gas (6.7 g, 10 mmole) in acetonitrile (125 mL) was cooled to 8° C. and treated with a mixture of fluorine in nitrogen (10% V/V, 12 mmole). The reaction was evaporated, the remaining solid washed with DME and dried to afford 1-fluoro-4-sulfo-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate).

reactant | 1-sulfo-4-aza-1-azoniabicyclo[2.2.2]octane tetrafluoroborate | 10 mmole, 28 g | F[B-](F)(F)F.S(=O)(=O)(O)[N+]12CCN(CC1)CC2
reactant | boron trifluoride | 10 mmole, 6.7 g | B(F)(F)F | BF3
reactant | fluorine | FF | F2
solvent | acetonitrile | 125 mL | C(C)#N | C2H3N
product | 1-fluoro-4-sulfo-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) | F[B-](F)(F)F.F[B-](F)(F)F.F[N+]12CC[N+](CC1)(CC2)S(=O)(=O)O | InChI=1S/C6H12FN2O3S.2BF4/c7-8-1-4-9(5-2-8,6-3-8)13(10,11)12;2*2-1(3,4)5/h1-6H2;;/q+1;2*-1/p+1
